US08604069B2
(A-53-7) 3-(2,2-Dimethylpropyl)cyclobutanecarboxylic acid
3-(2,2-Dimethylpropyl)-1-cyclobutenecarboxylic acid (163 g) and tetrahydrofuran (1300 mL) were mixed. After an addition of 5 w/w % rhodium on activated carbon (8.2 g) to the mixture, the mixture was stirred at RT for 35 hr under hydrogen atmosphere (1 atm). The 5 w/w % rhodium on activated carbon was filtered off and the filtrate was concentrated in vacuo to give the title compound (175.56 g) as a crude product.

reactant | 3-(2,2-Dimethylpropyl)-1-cyclobutenecarboxylic acid | 163 g | CC(CC1C=C(C1)C(=O)O)(C)C | C10H16O2
catalyst | rhodium | [Rh] | Rh
solvent | tetrahydrofuran | 1300 mL | O1CCCC1 | C4H8O
product | 3-(2,2-Dimethylpropyl)cyclobutanecarboxylic acid | 175.56 g | CC(CC1CC(C1)C(=O)O)(C)C | C10H18O2
